US09162987B2
4-Iodo-6-(2-chloropyridin-5-yl)pyrimidine (ACT-MIF-015)
The compound was prepared according to Example 1 using 2-chloropyridine-5-boronic acid and 4,6-dichloropyrimidine. The resultant chloro compound was converted to iodo with hydroiodic acid as described in the general procedure.

reactant | 2-chloropyridine-5-boronic acid | ClC1=NC=C(C=C1)B(O)O | C5H5BClNO2
reactant | 4,6-dichloropyrimidine | ClC1=NC=NC(=C1)Cl | C4H2Cl2N2
reactant | hydroiodic acid | I | HI
product | 4-Iodo-6-(2-chloropyridin-5-yl)pyrimidine | IC1=NC=NC(=C1)C=1C=CC(=NC1)Cl | C9H5ClIN3
